US04206137
trans-2-(3-Mercapto-1-oxopropyl)cyclohexanecarboxylic acid
trans-2-[3-(Acetylthio)-1-oxopropyl]cyclohexanecarboxylic acid (3.0 g., 11.6 mmol.) is added to a cold mixture of 5 ml. of concentrated ammonium hydroxide and 5 ml. of water under argon. The mixture is stirred at room temperature for 30 minutes. While cooling to 0°, the solution is acidified with concentrated hydrochloric acid. The mixture is extracted four times with ethyl acetate. The extracts are dried and the solvent is removed in vacuo. The oily product is chromatographed on 90 g. of silica gel eluting with ethyl acetate. A total of 2.2 g. (88%) of material is obtained which is contaminated with some more polar material. Chromatography of 1.9 g. of this material on 60 g. of silica gel and eluting with chloroform and 2% methanol in chloroform gives 1.4 g. of trans-2-(3-mercapto-1-oxopropyl)cyclohexanecarboxylic acid, recrystallized from isopropyl ether-hexane, 1.0 g. (46%), m.p. 71°-74°.

reactant | trans-2-[3-(Acetylthio)-1-oxopropyl]cyclohexanecarboxylic acid | 11.6 mmol, 3.0 g | C(C)(=O)SCCC(=O)[C@H]1[C@@H](CCCC1)C(=O)O | C12H18O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | trans-2-(3-Mercapto-1-oxopropyl)cyclohexanecarboxylic acid | 88% | SCCC(=O)[C@H]1[C@@H](CCCC1)C(=O)O | C10H16O3S
